US07579469B2
Synthesis of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3,4-dihydro-1H-quinoxalin-2-one
A solution of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (105 mg) and 3,4-dihydro-1H-quinoxalin-2-one (R. E. TenBrink et al., J. Med. Chem., 1994, 37, pp. 758-768) (267 mg) in dimethylformamide (0.75 mL) was heated at 140° C. for 45 hours. The resulting mixture was poured into water and extracted twice with diethyl ether. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 30% ethyl acetate-hexanes) to give the title compound as a pale yellow solid (67.8 mg), m.p. 69° C.-71° C.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 105 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 3,4-dihydro-1H-quinoxalin-2-one | N1C(CNC2=CC=CC=C12)=O | C8H8N2O
reactant | water | O | H2O
solvent | dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
product | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3,4-dihydro-1H-quinoxalin-2-one | 67.8 mg | FC=1C=CC(=C(C1)C(CC(CN1CC(NC2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C22H24F4N2O3
